US09376442B2
4-(2-Cyclopropylmethoxy-5-fluoro-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(2-methoxy-acetyl)-piperidin-4-yl]-amide
Starting from 4-(2-cyclopropylmethoxy-5-fluoro-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride (example D.f12) and commercially methoxyacetyl chloride the title compound is obtained as colorless solid.

reactant | 4-(2-cyclopropylmethoxy-5-fluoro-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide hydrochloride | Cl.N1CCC(CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)F)OCC2CC2)C
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-(2-Cyclopropylmethoxy-5-fluoro-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [1-(2-methoxy-acetyl)-piperidin-4-yl]-amide | COCC(=O)N1CCC(CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)F)OCC2CC2)C | C26H30FN5O4
